US08008296B2
4-(4-Methanesulfonyl-benzenesulfonylamino)-benzoic acid
To a stirring solution of 4-(4-methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester (0.456 g, 1.26 mmol) in a mixture of tetrahydrofuran (10 mL)/methanol (10 mL) is added 2N sodium hydroxide (2 ml, 4.0 mmol) and the reaction is heated to reflux for 1 hour. The reaction is then concentrated to dryness and the residue is dissolved in 95% dichloromethane/5% isopropanol and washed with 0.1N HCl. The organic layer is separated and dried over anhydrous sodium sulfate, filtered, and concentrated to provide 0.403 g (90%) of the pure title compound. MS (ES−) m/e 354.0 (M−1)−.

reactant | 4-(4-methanesulfonyl-benzenesulfonylamino)-benzoic acid methyl ester | 1.26 mmol, 0.456 g | COC(C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)=O | C15H15NO6S2
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 4.0 mmol, 2N, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(4-Methanesulfonyl-benzenesulfonylamino)-benzoic acid | 0.403 g, 90% | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C14H13NO6S2
